US04198424
(R*,R*)-acetic acid-[1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)-ethyl]-ester
According to the method of working described in Example 28, from 3.0 g of (R*,R*)-1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)-ethanol and 30 ml of acetic acid anhydride there are obtained 1.56 g of the title compound as tough, colourless oil of b.p. 130° at 0.008 mm Hg.

reactant | (R*,R*)-1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)-ethanol | 3.0 g | COC=1C=C(C=CC1)[C@@H](C[C@@H]1N(CCC1)C)O | C14H21NO2
reactant | acetic acid anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (R*,R*)-acetic acid-[1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)-ethyl]-ester | 1.56 g | COC=1C=C(C=CC1)[C@@H](C[C@@H]1N(CCC1)C)OC(C)=O | C16H23NO3
